US04556717
5.0 g (0.017 mol) of 1-[2-(2,4-dichlorophenyl)-pentyl-2-acetylhydrazine in 20 ml of 85% aqueous formic acid are heated for 18 hours at 100° C. Column-chromatography of the residue obtained after concentration by evaporation yields pure 1-[2-(2,4-dichlorophenyl)-pentyl]-1,2-diformylhydrazine:

reactant | 2-(2,4-dichlorophenyl)-pentyl-2-acetylhydrazine | ClC1=C(C=CC(=C1)Cl)C(CNNC(C)=O)CCC | C13H18Cl2N2O
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | 1-[2-(2,4-dichlorophenyl)-pentyl]-1,2-diformylhydrazine | ClC1=C(C=CC(=C1)Cl)C(CN(NC=O)C=O)CCC | C13H16Cl2N2O2
